US04755213
24.4 g (0.1 mol) of 1-(2,6-diethylphenyl)-imidazole-5carboxylic acid were added in portions to 36 g (0.3 mol) of thionyl chloride and 1 ml of dimethylformamide. After the addition, the mixture was heated at 80° C. until the evolution of gas had ended, and the solid residue was dried in vacuo and introduced in portions into 150 ml of ice-cold concentrated aqueous ammonia solution with thorough stirring. The mixture was stirred at room temperature for 1 hour; the precipitate was filtered off and dried. 20.2 g of 1-(2,6-diethylphenyl)-imidazole-5-carboxamide were obtained as a colorless solid of melting point 171°-171.5° C. (ethyl acetate/hexane); yield: 83% of theory.

reactant | 1-(2,6-diethylphenyl)-imidazole-5carboxylic acid | 0.1 mol, 24.4 g | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)O | C14H16N2O2
reactant | thionyl chloride | 0.3 mol, 36 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-(2,6-diethylphenyl)-imidazole-5-carboxamide | 20.2 g, yield: 83% | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)N | C14H17N3O
